US05244908
(1) Synthesis of 5-[2-(methylamino)ethylthio]imidazo[1,2-a]pyridine
A solution of 5-[2-(methylsulfonyloxy)ethylthio]imidazo[1,2-a]pyridine (2.18 g, 8 mmoles), triethylamine (2.24 ml, 16 mmoles) and a 40% methylamine-methanol solution (20 ml) in chloroform (20 ml) was heated at reflux for 3 hours. The reaction solution was washed with an aqueous 3N-sodium hydroxide solution and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: methanol/chloroform=1:10) to obtain 781 mg of the desired product (47.1%, light brown oily product).

reactant | 5-[2-(methylsulfonyloxy)ethylthio]imidazo[1,2-a]pyridine | 8 mmoles, 2.18 g | CS(=O)(=O)OCCSC1=CC=CC=2N1C=CN2 | C10H12N2O3S2
reactant | triethylamine | 16 mmoles, 2.24 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine methanol | 20 ml | CN.CO
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-[2-(methylamino)ethylthio]imidazo[1,2-a]pyridine | 781 mg, 47.1% | CNCCSC1=CC=CC=2N1C=CN2 | C10H13N3S
